US04076812
A mixture of 2.3 g of 10-fluoro-5H-dibenz[b,f]azepine and 30 ml of toluene saturated with phosgene is stirred for 2 days at 25° C. Excess phosgene is then expelled with nitrogen and the reaction mixture is concentrated by rotary evaporation to yield crude 10-fluoro-5H-dibenz[b,f]azepine-5-carbonyl chloride as residue.

reactant | 10-fluoro-5H-dibenz[b,f]azepine | 2.3 g | FC1=CC2=C(NC3=C1C=CC=C3)C=CC=C2 | C14H10FN
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 10-fluoro-5H-dibenz[b,f]azepine-5-carbonyl chloride | FC1=CC2=C(N(C3=C1C=CC=C3)C(=O)Cl)C=CC=C2 | C15H9ClFNO
